US07507821B2
A 250 ml reactor, equipped with a mechanical stirrer and a reflux condenser, was charged with 2-chloro-4-(3-pyridyl)-pyrimidine (0.5 g, 2.6 mmol), 2-amino-4-nitrotoluene (0.5 g, 3.2 mmol), n-butanol (15 ml) and concentrated HCl (5 drops) and the mixture was refluxed for 38 hours. Then, the mixture was cooled, and 6 N NaOH was added to pH 8. The solvent was evaporated under reduced pressure and water (20 ml) was added to the residue, followed by extraction with dichloromethane (2×20 ml). The combined organic phase was concentrated to dryness to give the crude N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-pyrimidine-amine, which was purified by column chromatography to yield a product having 80% purity. The residue was re-slurried twice in methanol (2×2 ml) and in water (3 ml) and dried under reduced pressure.

reactant | 2-chloro-4-(3-pyridyl)-pyrimidine | 2.6 mmol, 0.5 g | ClC1=NC=CC(=N1)C=1C=NC=CC1 | C9H6ClN3
reactant | 2-amino-4-nitrotoluene | 3.2 mmol, 0.5 g | NC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H8N2O2
reactant | NaOH | 6 N | [OH-].[Na+]
catalyst | HCl | 5 drops | Cl | ClH
solvent | n-butanol | 15 ml | C(CCC)O | C4H10O
product | N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-pyrimidine-amine | CC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H13N5O2
